US08304419B2
Step A: 2-Chloro-4-nitropyridine 1-oxide
TFAA (6.15 ml, 43.5 mmol) was slowly added to a solution of 2-chloro-4-nitropyridine (3.45 g, 21.76 mmol) and urea hydrogen peroxide (4.30 g, 45.7 mmol) in CH2Cl2 at 0° C. under N2. The reaction was stirred for 30 min and then allowed to warm up to RT for 4 h. NH3 gas was bubbled into the mixture for 5 min and then the organic layer was washed with sat. NaHCO3, dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography on silica gel eluted with 0-2% 2M NH3 solution of MeOH in CH2Cl2 to give the product as a light-yellow solid (3.59 g, 95%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.39 (1H, d) 8.36 (1H, d) 8.04 (1H, dd). LCMS: m/z 175 (M+1).

reactant | TFAA | 43.5 mmol, 6.15 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | 2-chloro-4-nitropyridine | 21.76 mmol, 3.45 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | urea hydrogen peroxide | 45.7 mmol, 4.30 g | OO.NC(=O)N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Chloro-4-nitropyridine 1-oxide | 3.59 g, 95% | ClC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C5H3ClN2O3
